US07723369B2
5-{3-[2-{4-[6-(2-Cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (17 mg, 0.02 mmol) was treated as described in general procedure W using tetrabutylammonium fluoride (26 mg, 0.1 mmol) to give 5-{3-[2-{4-[6-(2-cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{3-[2-{4-[6-(2-Cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.02 mmol, 17 mg | C1(CCCCC1)CCOC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C42H48Cl2N6O5SSi
reactant | tetrabutylammonium fluoride | 0.1 mmol, 26 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-{3-[2-{4-[6-(2-cyclohexyl-ethoxy)-pyridazin-3-yl]-benzyl}-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C1(CCCCC1)CCOC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C36H34Cl2N6O4S
